US05582767
22 ml of a 1.6N butyllithium solution in hexane were added dropwise during 30 min. to a solution of 5 g of 1-propyl-3,5-difluorobenzene in 50 ml of dry tetrahydrofuran at -70° C. and left to react at -70° C. for 1 hour. Then, a solution of 8.95 g of iodine in 20 ml of dry tetrahydrofuran was added dropwise at -60° within 10 minutes and the mixture was gradually warmed to room temperature within a further 30 minutes. The resulting yellow solution was then treated with 40 ml of a 10 percent aqueous sodium bicarbonate solution and extracted with ether. The ether solution was washed with saturated sodium chloride solution and several times with water, dried over magnesium sulphate, filtered and concentrated. Chromatography of the residue over 200 g of silica gel with hexane gave 1-propyl-3,5-difluoro-4-iodobenzene as a colourless liquid.

reactant | butyllithium | 1.6N | C(CCC)[Li]
reactant | 1-propyl-3,5-difluorobenzene | 5 g | C(CC)C1=CC(=CC(=C1)F)F | C9H10F2
reactant | iodine | 8.95 g | II | I2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-propyl-3,5-difluoro-4-iodobenzene | C(CC)C1=CC(=C(C(=C1)F)I)F | C9H9F2I
